* c:\users\chaitanya\esim-workspace\spi_test\spi_test.cir

.include spi_subcircuit.sub
x1 clk rst start data_in7 data_in6 data_in5 data_in4 data_in3 data_in2 data_in1 data_in0 mdata_in7 mdata_in6 mdata_in5 mdata_in4 mdata_in3 mdata_in2 mdata_in1 mdata_in0 slave_sel slave0_7 slave0_6 slave0_5 slave0_4 slave0_3 slave0_2 slave0_1 slave0_0 slave1_7 slave1_6 slave1_5 slave1_4 slave1_3 slave1_2 slave1_1 slave1_0 done mparallel_data7 mparallel_data6 mparallel_data5 mparallel_data4 mparallel_data3 mparallel_data2 mparallel_data1 mparallel_data0 spi_subcircuit
v2  data_in0 gnd pulse(5 0 490n 0 0 2000n 3000n)
v3  data_in1 gnd pulse(0 0 0 0 0 2000n 3000n)
v5  data_in2 gnd pulse(5 0 490n 0 0 2000n 3000n)
v7  data_in3 gnd pulse(0 0 0 0 0 2000n 3000n)
v9  data_in4 gnd pulse(0 5 490n 0 0 2000n 3000n)
v11  data_in5 gnd pulse(5 5 0 0 0 2000n 3000n)
v13  data_in6 gnd pulse(0 5 490n 0 0 2000n 3000n)
v15  data_in7 gnd pulse(5 5 0 0 0 2000n 3000n)
v17  start gnd pulse(0 5 70n 0 0 2000n 3000n)
v18  rst gnd pulse(5 0 50n 0 0 2000n 3000n)
v1  mdata_in7 gnd pulse(0 0 0 0 0 2000n 3000n)
v4  mdata_in6 gnd pulse(0 5 490n 0 0 2000n 3000n)
v6  mdata_in5 gnd pulse(5 0 490n 0 0 2000n 3000n)
v8  mdata_in4 gnd pulse(5 5 0 0 0 2000n 3000n)
v10  mdata_in3 gnd pulse(5 0 490n 0 0 2000n 3000n)
v12  mdata_in2 gnd pulse(5 5 0 0 0 2000n 3000n)
v14  mdata_in1 gnd pulse(0 0 0 0 0 2000n 3000n)
v16  mdata_in0 gnd pulse(0 5 490n 0 0 2000n 3000n)
v19  slave_sel gnd pulse(0 5 490n 0 0 2000n 3000n)
* u23  slave0_7 plot_v1
* u24  slave0_6 plot_v1
* u26  slave0_5 plot_v1
* u28  slave0_4 plot_v1
* u31  slave0_3 plot_v1
* u33  slave0_2 plot_v1
* u35  slave0_1 plot_v1
* u37  slave0_0 plot_v1
* u39  slave1_7 plot_v1
* u41  slave1_6 plot_v1
* u43  slave1_5 plot_v1
* u45  slave1_4 plot_v1
* u21  mparallel_data0 plot_v1
* u22  mparallel_data1 plot_v1
* u25  mparallel_data2 plot_v1
* u27  mparallel_data3 plot_v1
* u29  mparallel_data4 plot_v1
* u30  mparallel_data5 plot_v1
* u32  mparallel_data6 plot_v1
* u34  mparallel_data7 plot_v1
* u36  done plot_v1
* u38  slave1_0 plot_v1
* u40  slave1_1 plot_v1
* u42  slave1_2 plot_v1
* u44  slave1_3 plot_v1
v20  clk gnd pulse(0 5 0 0 0 10n 20n)
* u18  clk plot_v1
* u19  rst plot_v1
* u20  start plot_v1
* u15  data_in7 plot_v1
* u13  data_in6 plot_v1
* u11  data_in5 plot_v1
* u9  data_in4 plot_v1
* u7  data_in3 plot_v1
* u5  data_in2 plot_v1
* u3  data_in1 plot_v1
* u1  data_in0 plot_v1
* u17  slave_sel plot_v1
* u16  mdata_in0 plot_v1
* u14  mdata_in1 plot_v1
* u12  mdata_in2 plot_v1
* u10  mdata_in3 plot_v1
* u8  mdata_in4 plot_v1
* u6  mdata_in5 plot_v1
* u4  mdata_in6 plot_v1
* u2  mdata_in7 plot_v1
.tran 1e-09 2000e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(slave0_7)
plot v(slave0_6)
plot v(slave0_5)
plot v(slave0_4)
plot v(slave0_3)
plot v(slave0_2)
plot v(slave0_1)
plot v(slave0_0)
plot v(slave1_7)
plot v(slave1_6)
plot v(slave1_5)
plot v(slave1_4)
plot v(mparallel_data0)
plot v(mparallel_data1)
plot v(mparallel_data2)
plot v(mparallel_data3)
plot v(mparallel_data4)
plot v(mparallel_data5)
plot v(mparallel_data6)
plot v(mparallel_data7)
plot v(done)
plot v(slave1_0)
plot v(slave1_1)
plot v(slave1_2)
plot v(slave1_3)
plot v(clk)
plot v(rst)
plot v(start)
plot v(data_in7)
plot v(data_in6)
plot v(data_in5)
plot v(data_in4)
plot v(data_in3)
plot v(data_in2)
plot v(data_in1)
plot v(data_in0)
plot v(slave_sel)
plot v(mdata_in0)
plot v(mdata_in1)
plot v(mdata_in2)
plot v(mdata_in3)
plot v(mdata_in4)
plot v(mdata_in5)
plot v(mdata_in6)
plot v(mdata_in7)
.endc
.end
