* c:\users\chaitanya\esim-workspace\wallace_encoder_test\wallace_encoder_test.cir

.include wallace_encoder_subcircuit.sub
x1 in_7 in_6 in_5 in_4 in_3 in_2 in_1 out_2 out_1 out_0 wallace_encoder_subcircuit
v1  in_7 gnd pulse(0 5 0 0 0 50n 100n)
v2  in_6 gnd pulse(5 0 0 0 0 50n 100n)
v3  in_5 gnd pulse(5 0 0 0 0 50n 100n)
v4  in_4 gnd pulse(0 0 0 0 0 50n 100n)
v5  in_3 gnd pulse(0 0 0 0 0 50n 100n)
v6  in_2 gnd pulse(5 0 0 0 0 50n 100n)
v7  in_1 gnd pulse(5 0 0 0 0 50n 100n)
* u8  out_2 plot_v1
* u9  out_1 plot_v1
* u10  out_0 plot_v1
* u7  in_1 plot_v1
* u6  in_2 plot_v1
* u5  in_3 plot_v1
* u4  in_4 plot_v1
* u3  in_5 plot_v1
* u2  in_6 plot_v1
* u1  in_7 plot_v1
.tran 1e-09 200e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth =3 
plot v(out_2) + 6 v(out_1) + 12 v(out_0)

plot v(in_7) + 6 v(in_6) + 12 v(in_5) + 18  v(in_4) + 24 v(in_3) + 30  v(in_2)+ 36 v(in_1)
.endc
.end
